US07501507B2
2-Carboxy-5,5-dimethyl-1,3-dioxane (10).
Following a general procedure,23 a mixture of glyoxylic acid monohydrate (5.0 g, 54 mmol), 2,2-dimethyl 1,3-propanediol (8.5 g, 81 mmol) and Amberlyst-15 ion-exchange resin (100 mg) in benzene (140 mL) was refluxed for 15 h in a flask fitted with a Dean-Stark apparatus. The reaction mixture was filtered. The filtrate was concentrated and then refluxed with 20% aqueous NaOH (50 mL) for 30 min. The resulting alkaline solution was extracted with ether and neutralized in the cold with dilute HCl. At the end the pH was brought to ˜1.0 using H3PO4. The acidified aqueous layer was extracted with ether. The extracts were combined, dried (Na2SO4) and concentrated to afford a white solid (6.349 g, 73%): mp 58-60° C.; 1H NMR δ 0.80 (s, 3H), 1.22 (s, 3H), 3.57 (d, J=12.0 Hz, 2H), 3.79 (d, J=12.0 Hz, 2H), 4.97 (s, 1H); 13C NMR δ 169.1, 124.7, 95.8, 77.5, 30.6, 23.0, 21.9; FAB-MS obsd 161.0806, calcd 161.0814 (C7H12O4).

reactant | glyoxylic acid monohydrate | 54 mmol, 5.0 g | O.C(C=O)(=O)O
reactant | 2,2-dimethyl 1,3-propanediol | 81 mmol, 8.5 g | CC(CO)(CO)C | C5H12O2
solvent | benzene | 140 mL | C1=CC=CC=C1 | C6H6
product | 2-Carboxy-5,5-dimethyl-1,3-dioxane | 6.349 g, 73% | C(=O)(O)C1OCC(CO1)(C)C | C7H12O4
